US06737417B2
Triethylsilane (5 ml) and boron trifluoride diethyl etherate (5 ml) were added to a solution of 17β-hydroxy-3-methoxy-7α-(2-propenyl)estra-1,3,5(10)-trien-6-one (1.0 g, 2.9 mmol) in dichloromethane (20 mL) at 0° C. The resulting mixture was warmed to room temperature and stirred for 18 hours. After the reaction was completed, 10% aqueous potassium carbonate was added to the reaction mixture, which was then extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride, dried over anhydrous sodium sulfate, and then filtered. After concentration under reduced pressure, the resulting residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=2/1) to give 3-methoxy-7α-(2-propenyl)estra-1,3,5(10)-trien-17β-ol (935 mg, Yield 98%).

reactant | Triethylsilane | 5 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | boron trifluoride diethyl etherate | 5 ml | B(F)(F)F.CCOCC
reactant | 17β-hydroxy-3-methoxy-7α-(2-propenyl)estra-1,3,5(10)-trien-6-one | 2.9 mmol, 1.0 g | O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1[C@@H](C(C=3C=C(C=CC3[C@H]1CC2)OC)=O)CC=C | C22H28O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 3-methoxy-7α-(2-propenyl)estra-1,3,5(10)-trien-17β-ol | 935 mg, Yield 98% | COC1=CC=2C[C@H]([C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3C2C=C1)O)CC=C | C22H30O2
